US09029544B2
(S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-4-(trifluoromethyl)phenyl)methanol
Obtained by starting from (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde and 4-bromo-2-fluoro-1-(trifluoromethyl)benzene. Diethylether is used instead of toluene.

reactant | (S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinoline-3-carbaldehyde | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)C=O)C=1CCOCC1 | C26H41NO3Si
reactant | 4-bromo-2-fluoro-1-(trifluoromethyl)benzene | BrC1=CC(=C(C=C1)C(F)(F)F)F | C7H3BrF4
solvent | Diethylether | C(C)OCC | C4H10O
product | (S)—((S)-5-(tert-butyldimethylsilyloxy)-4-(3,6-dihydro-2H-pyran-4-yl)-2-isopropyl-7,7-dimethyl-5,6,7,8-tetrahydroquinolin-3-yl)(3-fluoro-4-(trifluoromethyl)phenyl)methanol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C=2C(=C(C(=NC2CC(C1)(C)C)C(C)C)[C@@H](O)C1=CC(=C(C=C1)C(F)(F)F)F)C=1CCOCC1 | C33H45F4NO3Si
